US07576122B2
Step E: 1-(3-{2-[Trans-2,5-dipropylpyrrolidin-1-yl]-2-oxoethyl}-5-methoxy-1-benzofuran-2-yl)-2,2-dimethylpropan-1-one
Dissolve a mixture of 17 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1 and 18.5 mg HOBt in 1 mL dry DMF. Add 13.7 mg trans-2,5-dipropylpyrrolidine from the Step D above followed by 23.0 mg EDC and 35 μL DIEA. This solution was heated at 40° C. for 2 hours. It was purified directly on RP-HPLC using 70-100% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.58 min. (m/Z 428.3, 344.2, 450.3).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 17 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | HOBt | 18.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | trans-2,5-dipropylpyrrolidine | 13.7 mg | C(CC)[C@@H]1N[C@H](CC1)CCC | C10H21N
reactant | DIEA | 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 23.0 mg
product | 1-(3-{2-[Trans-2,5-dipropylpyrrolidin-1-yl]-2-oxoethyl}-5-methoxy-1-benzofuran-2-yl)-2,2-dimethylpropan-1-one | C(CC)[C@@H]1N([C@H](CC1)CCC)C(CC1=C(OC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O | C26H37NO4
